### ISSUE TITLE
`exact?` suggests term that does not work

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#5407]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In this code:
```lean
inductive Odd : Nat → Prop
  | one : Odd 1
  | add_two : Odd n → Odd (n + 2)

theorem odd_iff {n : Nat} : Odd n ↔ n % 2 = 1 := by
  refine ⟨fun h => by induction h <;> omega, ?_⟩
  match n with
  | 0 => simp
  | 1 => exact fun _ => Odd.one
  | n + 2 => exact fun _ => Odd.add_two (odd_iff.mpr (by omega))

example {n : Nat} : n % 2 = 1 → Odd n := by exact?
```
the suggestion we get from `exact?` is `Try this: exact fun a => (fun {n} => odd_iff.mpr) a`, but this does not work. Accepting the suggestion leads to the two errors
```
failed to infer binder type
```
and
```
don't know how to synthesize implicit argument 'n'
  (@fun {n_1} => odd_iff.mpr) (?m.2120 a) a
context:
n : Nat
a : n % 2 = 1
⊢ ?m.2119 a
```

**Expected behavior:** `exact?` suggests some invocation of `odd_iff` that works

**Actual behavior:** Suggestion leads to error above

### Versions

`4.12.0-nightly-2024-09-19` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I assume the problem isn't actually with `exact?` but rather the pretty-printer, and would affect `show_term` as well?

**Comment by Kha** [comment]
@TwoFX mentioned that #6122 looks like the underlying bug; though I wonder whether we shouldn't use `pp.beta` here so I won't declare these duplicates just yet

**Comment by nomeata** [comment]
JFTR, we now get 
```
found a proof, but the corresponding tactic failed:
  (expose_names; exact fun a => (fun {n} => odd_iff.mpr) a)

It may be possible to correct this proof by adding type annotations, explicitly specifying implicit arguments, or eliminating unnecessary function abstractions.
```
(so this issue is about the impact of https://github.com/leanprover/lean4/issues/6122 on `exact?`)

**Comment by keithadler** [comment]
Update on `4.35.0-nightly-2026-09-04` or stable `4.33.1`. `exact?` no longer emits the non-working term as a plain suggestion. It now reports:

```
found a proof, but the corresponding tactic failed:
  (expose_names; exact fun a => (fun {n} => odd_iff.mpr) a)
It may be possible to correct this proof by adding type annotations, ...
```

The generated term still doesn't work, but the failure is detected and surfaced rather than suggested. Whether that resolves this issue is a judgement call.

Triage assisted by Claude; repros run and checked manually.
